### PR TITLE
[Merged by Bors] - feat(Analysis): generalize `Real.deriv_rpow_const` and prove iteration version

### PR DESCRIPTION
**Pull request by mcdoll**
We prove that for calculating the derivative of `Real.rpow` it is not necessary to check any conditions, since the junk values align. This makes it easy to calculate the iterated derivative.

Co-authored-by: Floris van Doorn <fpvdoorn@gmail.com>

---

`tendsto_rpow_neg_nhdsGT_zero` by Floris, see [#Is there code for X? > &#96;Real.rpow&#96; tendsto &#96;atTop&#96; for negative exponents @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/.60Real.2Erpow.60.20tendsto.20.60atTop.60.20for.20negative.20exponents/near/560623279)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 1]
```diff
@@ -388,6 +388,20 @@ lemma differentiableAt_rpow_const_of_ne (p : ℝ) {x : ℝ} (hx : x ≠ 0) :
     DifferentiableAt ℝ (fun x => x ^ p) x :=
   (hasStrictDerivAt_rpow_const_of_ne hx p).differentiableAt
 
+theorem not_differentiableAt_rpow_const_zero {r : ℝ} (hr : r < 1) (hr' : r ≠ 0) :
+    ¬ DifferentiableAt ℝ (fun x ↦ x ^ r) (0 : ℝ) := by
+  by_contra h
+  set y := deriv (fun x ↦ x ^ r) (0 : ℝ)
+  -- If `x ^ r` was differentiable at `0`, then `x ^ (r - 1)` would have a finite limit at `0`.
+  have h : Filter.Tendsto (fun t ↦ t ^ (r - 1)) (nhdsWithin 0 (Set.Ioi 0)) (nhds y) := by
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean]:
```suggestion
  have h : Filter.Tendsto (fun t ↦ t ^ (r - 1)) (𝓝[>] 0) (𝓝 y) := by
```

Comment (urkud) [reply Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean]: Otherwise LGTM. Thanks! :tada:
bors d+

**Comment by mcdoll** [comment]
bors merge
